US07820823B2
1-Cyclopropyl-6-fluoro-7-(4-{2-fluoro-4-[(5R)-5-(methan-sulfonylamino-methyl)-2-oxo-oxazolidin-3-yl]-phenyl}-piperazin-1-yl)-4-oxo-1,4-dihydro-[1,8]naphthyridine-3-carboxylic Acid
This compound was synthesized in analogy to the procedure described in Example 10 using 0.082 g N-[(5R)-3-(3-fluoro-4-piperazin-1-yl-phenyl)-2-oxo-oxazolidin-5-ylmethyl]-methansulfonamide (0.22 mmol) and 0.067 g 7-chloro-1-cyclopropyl-6-fluoro-1,4-dihydro-4-oxo-[1,8]naphthyridine-3-carboxylic acid (0.22 mmol).

reactant | N-[(5R)-3-(3-fluoro-4-piperazin-1-yl-phenyl)-2-oxo-oxazolidin-5-ylmethyl]-methansulfonamide | 0.22 mmol, 0.082 g | FC=1C=C(C=CC1N1CCNCC1)N1C(O[C@H](C1)CNS(=O)(=O)C)=O | C15H21FN4O4S
reactant | 7-chloro-1-cyclopropyl-6-fluoro-1,4-dihydro-4-oxo-[1,8]naphthyridine-3-carboxylic acid | 0.22 mmol, 0.067 g | ClC1=C(C=C2C(C(=CN(C2=N1)C1CC1)C(=O)O)=O)F | C12H8ClFN2O3
product | 1-Cyclopropyl-6-fluoro-7-(4-{2-fluoro-4-[(5R)-5-(methan-sulfonylamino-methyl)-2-oxo-oxazolidin-3-yl]-phenyl}-piperazin-1-yl)-4-oxo-1,4-dihydro-[1,8]naphthyridine-3-carboxylic Acid | C1(CC1)N1C=C(C(C2=CC(=C(N=C12)N1CCN(CC1)C1=C(C=C(C=C1)N1C(O[C@H](C1)CNS(=O)(=O)C)=O)F)F)=O)C(=O)O | C27H28F2N6O7S
